US04515786
Ethyl 3α-acetoxy-2β-ethoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate
Ethyl 2β-ethoxy-3α-hydroxy-11α-(2,2,2-trichloroethoxy-carbonylamino)-5α-androstane-17β-carboxylate (1.83 g) in pyridine (6 ml) was treated with acetic anhydride. After b 18 h. the reaction mixture was diluted with ethanol and evaporated to give a foam (1.91 g). A portion was purified by preparative t.l.c. in ethyl acetate/Petrol (1:2) to give the title compound, [α]D +30.7°, νmax 1724 cm-1.

reactant | Ethyl 2β-ethoxy-3α-hydroxy-11α-(2,2,2-trichloroethoxy-carbonylamino)-5α-androstane-17β-carboxylate | 1.83 g | C(C)O[C@@H]1[C@H](C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C1)C)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OCC)O | C27H42Cl3NO6
reactant | acetic anhydride | C(C)(=O)OC(C)=O | C4H6O3
solvent | pyridine | 6 ml | N1=CC=CC=C1 | C5H5N
solvent | ethanol | C(C)O | C2H6O
product | Ethyl 3α-acetoxy-2β-ethoxy-11α-(2,2,2-trichloroethoxycarbonylamino)-5α-androstane-17β-carboxylate | 1.91 g | C(C)(=O)O[C@H]1C[C@@H]2CC[C@H]3[C@@H]4CC[C@@H]([C@@]4(C)C[C@H]([C@@H]3[C@]2(C[C@@H]1OCC)C)NC(=O)OCC(Cl)(Cl)Cl)C(=O)OCC | C29H44Cl3NO7
